US07312249B2
e. Preparation of Dimethyl 4-[3-(4-ethoxymethoxy-3-ethylphenyl)propyl]phthalate
5 g (22.7 mmol) of 4-allyl-1-ethoxymethoxy-2-ethylbenzene are dissolved in 100 ml of anhydrous THF, and the medium is cooled to 0° C. 6.6 g (27 mmol) of 9-BBN are added, and the medium is brought to room temperature and then stirred for 12 hours. A solution of 7.8 g (22.6 mmol) of dimethyl 4-trifluoromethanesulphonyloxyphthalate in 100 ml of DMF is added, as well as 6.2 g (44.8 mmol) of potassium carbonate. The reaction medium is degassed with a nitrogen stream, and then 930 mg (1.1 mmol) of dichloropalladium diphosphinoferrocene are added. The medium is heated at 50° C. for 3 hours, and then poured into an ammonium chloride solution and extracted with ethyl acetate. The residue obtained after drying and concentration is purified by chromatography on a silica column (eluent heptane, and then heptane 85/ethyl acetate 15). A yellow oil is obtained (m=6.9 g, y=73%).

reactant | 4-allyl-1-ethoxymethoxy-2-ethylbenzene | 22.7 mmol, 5 g | C(C=C)C1=CC(=C(C=C1)OCOCC)CC | C14H20O2
reactant | 9-BBN | 27 mmol, 6.6 g | B1C2CCCC1CCC2 | C8H15B
reactant | dimethyl 4-trifluoromethanesulphonyloxyphthalate | 22.6 mmol, 7.8 g | FC(S(=O)(=O)OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)(F)F | C11H9F3O7S
reactant | potassium carbonate | 44.8 mmol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | dichloropalladium diphosphinoferrocene | 1.1 mmol, 930 mg | P[C-]1C=CC=C1.[C-]1(C=CC=C1)P.[Fe+2].Cl[Pd]Cl
product | Dimethyl 4-[3-(4-ethoxymethoxy-3-ethylphenyl)propyl]phthalate | C(C)OCOC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)CC | C24H30O6
